US07326731B2
Biphenyl-4-carboxylic acid (R)-(7-(1-((4-fluorobenzyl)methylamino)ethylideneamino)-2(R)-hydroxy-1,2,3,4-tetrahydronaphthalen-1-yl)amide
Add methyl trifluoromethanesulfonate (0.150 g, 0.915 mmol) to a solution of N-4-fluorobenzyl-N-methylthioacetamide (0.145 g, 0.736 mmol) in 10 mL of CH2Cl2 at room temperature. Stir the mixture for 30 minutes and remove the solvent under reduced pressure. Then add biphenyl-4-carboxylic acid (7-amino-2-hydroxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-amide (0.22 g, 0.61 mmol) followed by 5 mL of pyridine. Stir the resulting mixture for 12 h. After evaporate pyridine, purify the residue by column chromatography (silica gel, 5% MeOH in CH2Cl2) to give 10 mg of the title compound in 2.6% yield as a light yellow solid: 1H NMR (CDCl3) δ 7.89 (2H, d, J=8.0 Hz), 8.66 (2H, d, J=8.4 Hz), 7.61 (2H, d, J=7.2 Hz), 7.47 (2H, t, J=7.6 Hz), 7.39 (1H, t, J=7.6 Hz), 7.21 (1H, dd, J=6.0, 8.8 Hz), 6.98-7.05 (3 B, m), 6.72 (1H, s), 6.62 (1H, dd, J=2.0, 8.4 Hz), 6.56 (1H, d, J=7.2 Hz), 5.22 (1H, t, J=7.6 Hz), 4.60 (2H, s), 3.98-4.04 (2H, m), 3.41 (11H, t, J=6.0 Hz), 2.96 (3H, s), 2.85 (2H, t, J=4.8 Hz), 2.15-2.21 (2H, m), 1.87-1.95 (1H, m), 1.92 (3H, s), 1.60-1.64 (1H, m); MS 522 (MH+).

reactant | methyl trifluoromethanesulfonate | 0.915 mmol, 0.150 g | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
reactant | N-4-fluorobenzyl-N-methylthioacetamide | 0.736 mmol, 0.145 g | FC1=CC=C(CN(C(C)=S)C)C=C1 | C10H12FNS
reactant | biphenyl-4-carboxylic acid (7-amino-2-hydroxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-amide | 0.61 mmol, 0.22 g | NC1=CC=C2CCC(C(C2=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)O | C23H22N2O2
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Biphenyl-4-carboxylic acid (R)-(7-(1-((4-fluorobenzyl)methylamino)ethylideneamino)-2(R)-hydroxy-1,2,3,4-tetrahydronaphthalen-1-yl)amide | 10 mg, 2.6% yield | FC1=CC=C(CCNC(C)=NC2=CC=C3CC[C@H]([C@@H](C3=C2)NC(=O)C2=CC=C(C=C2)C2=CC=CC=C2)O)C=C1 | C33H32FN3O2
